US05439917
Preparation of 2,3-dimethyl-5-trifluoromethylpyrrolo[2,3-b]pyridine
A mixture of 2-chloro-5-trifluoromethylpyridine (10 g 0.055 mol) and hydrazine mono hydrate (2,7 g, 0.055 mol) in 35 ml n-propanol was refluxed for 2 h and was then stirred 20 h at RT. To the solution was added 4,35 g (0.06 mol) methylethylketon and the mixture was refluxed for 30 min. After the solvent was removed under reduced pressure the residue was partitioned between methylene chloride and bicarbonate solution. The organic layer was dried over Na2SO4 and evaporated. The residue was solved in 80 ml diethylene glycol and refluxed for 5 h. The reaction mixture was poured into ice-water and extracted with methylene chloride. The organic layer was separated dried over Na2SO4 and evaporated. The residue was treated with warm petroleumether (60-80 ) wich was decantated and evaporated chromatography twice on silica gel with 1 methylene chloride/methanol 2 ethyl acetate, gave the desired product. (0,2 g 1.7% ).

reactant | 2-chloro-5-trifluoromethylpyridine | 0.055 mol, 10 g | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
reactant | hydrazine mono hydrate | 0.055 mol, 2,7 g | O.NN
reactant | methylethylketon | 0.06 mol, 4,35 g | CC(=O)CC | C4H8O
solvent | n-propanol | 35 ml | C(CC)O | C3H8O
product | 2,3-dimethyl-5-trifluoromethylpyrrolo[2,3-b]pyridine | CC1=C(C=2C(=NC=C(C2)C(F)(F)F)N1)C | C10H9F3N2
